US04419357
Reaction of 31.7 g of 4,5-methylenedioxy-2-nitrobenzoic acid and 31.2 g of phosphorus pentachloride in 250 ml of cylohexane at reflux for 30 minutes followed by treatment of the crude oil twice with carbon tetrachloride gave 4,5-methylenedioxy-2-nitrobenzoyl chloride. The acid chloride was dissolved in 50 ml of tetrahydrofuran and added to a warm solution of 30.9 g of 5-aminotetrazole monohydrate in 750 ml of tetrahydrofuran and 30 ml of water. The solution was stirred for 30 minutes and then diluted with 3 liters of water. The solid which formed was separated by filtration and dried to give 4,5-methylenedioxy-2-nitro-N-(1H-tetrazol-5-yl)benzamide melting at about 279° C. after recrystallization from a mixture of dimethylformamide and water.

reactant | 4,5-methylenedioxy-2-nitrobenzoic acid | 31.7 g | C1OC2=CC(=C(C(=O)O)C=C2O1)[N+](=O)[O-] | C8H5NO6
reactant | phosphorus pentachloride | 31.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | cylohexane | 250 ml | C1CCCCC1 | C6H12
product | 4,5-methylenedioxy-2-nitrobenzoyl chloride | C1OC2=CC(=C(C(=O)Cl)C=C2O1)[N+](=O)[O-] | C8H4ClNO5
